US07572820B2
1-({5-[3,5-bis(Trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-propyl-1H-indole-5-carbonitrile and 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, DMSO-d6) δ 8.53 (s, 2H), 8.50 (s, 1H), 7.96 (s, 1H), 7.77 (d, J=8.7 Hz, 1H), 7.59 (d, J=8.7 Hz, 1H), 5.87 (s, 2H), 2.97-2.82 (m, 2H), 1.70-1.56 (m, 2H), 0.97-0.89 (m, 3H); MS (ES) m/z 513 (M+1).

reactant | 4-chloro-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)CCC | C12H11ClN2
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
product | 1-({5-[3,5-bis(Trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-propyl-1H-indole-5-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)Cl)CCC)(F)F | C23H15ClF6N4O
